US03948919
2-Hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-t-butylaminoethyl)pyridine dihydrochloride
One and five-tenths grams (4.8 m moles) of the above intermediate 6-(1-hydroxy-2-t-butylaminoethyl)-2-phenyl-4H-pyrido[3,2-d]-1,3-dioxin is dissolved in 20 ml. of acetone-water (1:1 v/v) and is treated with 1 ml. of 12N hydrochloric acid. After heating the solution to reflux for 5 hrs. the mixture is concentrated to an oil and dissolved in 100 ml. of ethanol. The water is azeotroped with 3 × 100 ml. portions of ethanol and the free base of the product generated by the addition of triethylamine. The solution is concentrated in vacuo to an oily slurry and the free base extracted from the triethylamine hydrochloride by extraction with acetone. The acetone extracts are combined, concentrated to an oil and the oil dissolved in 10 ml. of dry ethanol. Ethanol (0.184 ml.) containing hydrogen chloride (188 gm. HCl/ml. ethanol) is added and the solution added dropwise to 2 l. of dry isopropyl ether. The product is filtered and dried, 1.05 g. Further purification by recrystallization from methanol-acetone provides 950 mg. of the product which by infrared and nuclear magnetic resonance spectroscopy and thin-layer chromatography are identical to that in U.S. Pat. No. 3,700,681.

reactant | 6-(1-hydroxy-2-t-butylaminoethyl)-2-phenyl-4H-pyrido[3,2-d]-1,3-dioxin | OC(CNC(C)(C)C)C=1C=CC=2OC(OCC2N1)C1=CC=CC=C1 | C19H24N2O3
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | acetone water | CC(=O)C.O
product | 2-Hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-t-butylaminoethyl)pyridine dihydrochloride | Cl.Cl.OCC1=NC(=CC=C1O)C(CNC(C)(C)C)O | InChI=1S/C12H20N2O3.2ClH/c1-12(2,3)13-6-11(17)8-4-5-10(16)9(7-15)14-8;;/h4-5,11,13,15-17H,6-7H2,1-3H3;2*1H
